US07622546B2
An operation was conducted in the same manner as in Example 10 except that 22,050 g (glycolic acid: 50 ppm, glycolic acid dimer: 380 ppm, water: 20 ppm; overall proton concentration of impurities: 0.053 mol %) of glycolide prepared by the same process as in Synthesis Example 1 and 450 g (lactic acid: 0 ppm, lactic acid dimer: 270 ppm, water: 8 ppm; overall proton concentration of impurities: 0.030 mol %) of L-lactide were used as monomers, 1.45 g [in view of the amount (0.27 g) of water (moisture) contained in an atmosphere within the container] of water were added to control the overall proton concentration (set proton concentration) to 0.105 mol %, a heat transfer oil heated to 170° C. was circulated in the jacket part of the polymerization equipment, and the temperature of the upper and lower plates was also kept to 170° C. to hold the contents for 24 hours. After completion of the polymerization, the yield of bulk matter of a poly(glycolic acid/L-lactic acid) copolymer formed was almost 100%. The bulk matter was ground by a grinder, and the physical properties of the ground product were measured. The results are shown in Table 5.

reactant | glycolide | 22,050 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | L-lactide | 450 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
solvent | water | O | H2O
solvent | water | 0.27 g | O | H2O
product | glycolic acid L-lactic acid | C(CO)(=O)O.C([C@@H](O)C)(=O)O | InChI=1S/C3H6O3.C2H4O3/c1-2(4)3(5)6;3-1-2(4)5/h2,4H,1H3,(H,5,6);3H,1H2,(H,4,5)/t2-;/m0./s1
